US09102673B2
Step 1: ethyl 7-(3-ethoxyphenyl)-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylate
To a mixture of 1-tert-butyl 2-ethyl 7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate (88 mg, 0.17 mmol), 3-ethoxyphenylboronic acid (69 mg, 0.42 mmol), KF (38.7 mg, 0.67 mmol), and bis(tri-t-butylphosphine)palladium (0) (8.50 mg, 0.02 mmol) was added dioxane (3.5 mL) under a nitrogen atmosphere. The reaction was then heated to 100 C overnight. Another charge of 3-ethoxyphenylboronic acid (69 mg, 0.42 mmol), KF (38.7 mg, 0.67 mmol), and bis(tri-t-butylphosphine)palladium (0) (8.50 mg, 0.02 mmol) was then added and stirring was continued for 4 h. The crude reaction mixture was then concentrated in vacuo, and the crude material was purified on silica (gradient elution, 0-50% EtOAc/hexanes) to yield the title product (80 mg) as a mixture with Boc'd material 1-tert-butyl 2-ethyl 7-(3-ethoxyphenyl)-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate. HRMS (ESI) calc (M+H)+=515.1788. found 515.1772.

reactant | 1-tert-butyl 2-ethyl 7-chloro-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-1,2-dicarboxylate | 0.17 mmol, 88 mg | ClC=1N=CC=C2C1N(C(=C2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)OCC)C(=O)OC(C)(C)C | C24H24ClF3N2O6
reactant | 3-ethoxyphenylboronic acid | 0.42 mmol, 69 mg | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | KF | 0.67 mmol, 38.7 mg | [F-].[K+]
reactant | 3-ethoxyphenylboronic acid | 0.42 mmol, 69 mg | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | KF | 0.67 mmol, 38.7 mg | [F-].[K+]
catalyst | bis(tri-t-butylphosphine)palladium | 0.02 mmol, 8.50 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | bis(tri-t-butylphosphine)palladium | 0.02 mmol, 8.50 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
product | ethyl 7-(3-ethoxyphenyl)-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 80 mg | C(C)OC=1C=C(C=CC1)C=1N=CC=C2C1NC(=C2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)OCC | C27H25F3N2O5
